US08486962B2
Powdered sodium hydroxide (1 g, 28.77 mmol) was added to a solution of 3-nitro phenol (2 g, 14.35 mmol) in DMF (15 ml) and cooled in an ice-bath. Ethyl bromoacetate (3.2 ml, 28.77 mmol) was added, and the reaction mixture was heated at 90° C. for 7 hr. The reaction mixture was cooled and quenched with ice water. The product was extracted with ethyl acetate, washed with water and dried. Concentration under reduced pressure gave (3-nitrophenoxy)-acetic acid ethyl ester (2.2 g, 68%) as oil.

reactant | sodium hydroxide | 28.77 mmol, 1 g | [OH-].[Na+]
reactant | 3-nitro phenol | 14.35 mmol, 2 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | Ethyl bromoacetate | 28.77 mmol, 3.2 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (3-nitrophenoxy)-acetic acid ethyl ester | 2.2 g, 68% | C(C)OC(COC1=CC(=CC=C1)[N+](=O)[O-])=O | C10H11NO5
